US06747047B2
Step A: Preparation of 4-Methyl-N-[2-methyl-6-[[(1-methylethyl)amino]carbonyl]phenyl]-2-(trifluoromethyl)-5-pyrimidinecarboxamide
To a solution 0.8 g (4 mmol) of 4-methyl-2-trifluoromethylpyrimidine-5-carboxylic acid [made by the method of Palanki et al, J. Med. Chem. 2000, 43, 3995] stirring in 15 mL of methylene chloride, oxalyl chloride (2 mL, 23 mmol) was added. Upon addition of 2 drops of N,N-dimethylformamide, foaming and bubbling occurred. The reaction mixture was heated at reflux for 1 hr as a yellow solution. After cooling, the solvent was removed in vacuo and the resulting residue dissolved in 20 mL of tetrahydrofuran. To the stirred solution, 2-amino-3-methyl-N-(1-methylethyl)benzamide (1 g, 5 mmol) was added followed by the dropwise addition of N,N-diisopropylethylamine (3 ml, 17 mmol). After stirring at room temperature overnight, the reaction mixture was partitioned between ethyl acetate (200 mL) and 1N aqueous hydrochloric acid (75 mL). The separated organic layer was washed with water and brine and dried over magnesium sulfate. Evaporating in vacuo gave a white solid, which was suspended in a small amount of ethyl acetate and filtered to afford (after drying) 650 mg of the title compound, a compound of the present invention, melting at 248-251° C.

reactant | 4-methyl-2-trifluoromethylpyrimidine-5-carboxylic acid | 4 mmol, 0.8 g | CC1=NC(=NC=C1C(=O)O)C(F)(F)F | C7H5F3N2O2
reactant | oxalyl chloride | 23 mmol, 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-3-methyl-N-(1-methylethyl)benzamide | 5 mmol, 1 g | NC1=C(C(=O)NC(C)C)C=CC=C1C | C11H16N2O
reactant | N,N-diisopropylethylamine | 17 mmol, 3 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-N-[2-methyl-6-[[(1-methylethyl)amino]carbonyl]phenyl]-2-(trifluoromethyl)-5-pyrimidinecarboxamide | CC1=NC(=NC=C1C(=O)NC1=C(C=CC=C1C(=O)NC(C)C)C)C(F)(F)F | C18H19F3N4O2
